US06046217
Step 1: (R)-1-t-Butyldiphenylsiloxy-3-butanol
A mixture of (R)-1,3-butanediol (2 g), triethylamine (4 mL) and t-butyldiphenylchlorosilane (6.7 g) in CH2Cl2 (80 mL) was stirred at r.t. for 15 h. Saturated NH4Cl was added and the mixture was extracted with ethyl acetate. The combined organics were dried (MgSO4) and concentrated. Flash chromatography of the residue (9:1 hexane/ethyl acetate) provided the title compound as an oil.

reactant | (R)-1,3-butanediol | 2 g | C(C[C@@H](C)O)O | C4H10O2
reactant | triethylamine | 4 mL | C(C)N(CC)CC | C6H15N
reactant | t-butyldiphenylchlorosilane | 6.7 g | C(C)(C)(C)[Si](Cl)(C1=CC=CC=C1)C1=CC=CC=C1 | C16H19ClSi
reactant | NH4Cl | [NH4+].[Cl-]
solvent | CH2Cl2 | 80 mL | C(Cl)Cl | CH2Cl2
product | (R)-1-t-Butyldiphenylsiloxy-3-butanol | O([Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)CC[C@@H](C)O | C20H28O2Si
